US07381719B2
[2-(3-Methoxy-phenyl)-ethyl]-carbamic acid methyl ester
Combine 2-(3-methoxyphenyl)ethylamine (9.6 mL, 66.1 mmol), THF (300 mL), Et3N (11.0 mL, 78.9 mmol), and methyl chloroformate (26.0 mL, 339 mmol) at 0° C. under nitrogen atmosphere. Stir at room temperature for 18 hours, add the mixture into water, wash with brine, and dry the organic layer over Na2SO4 followed by concentrating under reduced pressure. Flash chromatograph using 2:1 hexanes:ethyl acetate to afford 13.6 g, 65.0 mmol (98% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 2.8 (2H, t, J=6.7, 7.0 Hz), 3.41-3.46 (2H, m), 3.7 (3H, s), 3.8 (3H, s), 4.6-4.8 (1H, br s), 6.7-6.8 (3H, m), 7.2-7.3 (1H, m); MS m/z 210 (M+1).

reactant | 2-(3-methoxyphenyl)ethylamine | 66.1 mmol, 9.6 mL | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | THF | 300 mL | C1CCOC1 | C4H8O
reactant | Et3N | 78.9 mmol, 11.0 mL | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 339 mmol, 26.0 mL | ClC(=O)OC | C2H3ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [2-(3-Methoxy-phenyl)-ethyl]-carbamic acid methyl ester | 65.0 mmol, 13.6 g, 98% yield | COC(NCCC1=CC(=CC=C1)OC)=O | C11H15NO3
